** sch_path: /foss/designs/WaferSpace-GF180-June26/blocks/pll/nor.sch
.subckt nor VDD A B Z GND
*.PININFO A:I B:I Z:O GND:B VDD:B
M1 Z A GND GND nfet_03v3 L=0.28u W=0.22u nf=1
M2 Z B net1 VDD pfet_03v3 L=0.28u W=0.22u nf=1
M3 Z B GND GND nfet_03v3 L=0.28u W=0.22u nf=1
M4 net1 A VDD VDD pfet_03v3 L=0.28u W=0.22u nf=1
.ends

